2196-05-11 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2196-5-10**] 04:30 PM
   - Fam mtg with discussion about PEG, but no decisions made yet.
   - Palleative care and SW consults ordered for further discusion.
   - Given non-invasive ventilation overnight per her home schedule.
   - Given 0.5 of IV ativan with good effect.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-5-11**] 05:55 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-5-10**] 08:00 PM
   Lorazepam (Ativan) - [**2196-5-10**] 08:43 PM
   Furosemide (Lasix) - [**2196-5-10**] 08:43 PM
   Heparin Sodium (Prophylaxis) - [**2196-5-11**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-5-11**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 92 (81 - 105) bpm
   BP: 113/63(75) {87/54(62) - 144/92(104)} mmHg
   RR: 24 (14 - 36) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                     67 mL
                                                                    261 mL
   PO:
             TF:
   IVF:
                                                                     67 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    230 mL
   Urine:
                                                                    770 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -703 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 246 (209 - 246) mL
   RR (Set): 8
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 88%
   ABG: 7.42/73.[**Numeric Identifier 218**]/65/46/18
   Ve: 1.9 L/min
   PaO2 / FiO2: 163
   Physical Examination
   Vitals: T: 96.7 BP: 113/61 P: 89  R: 14  O2: 100% on NRB
   General: Easily arousible, follows commands, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple
   Lungs: Diminished breath sounds on Right side, but otherwise clear.
   CV: Irregularly irreg, 2/6 SEM at LUSB
   Abdomen: soft, non-tender, mildly distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: 2+ pulses, no clubbing, cyanosis. No edema at ankles.
   Neuro: Asking questionsbut confused, AOx2.
   Labs / Radiology
   163 K/uL
   9.7 g/dL
   110 mg/dL
   1.0 mg/dL
   46 mEq/L
   3.8 mEq/L
   25 mg/dL
   93 mEq/L
   144 mEq/L
   31.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2196-5-11**]  12:48 AM
                             [**2196-5-11**]  02:45 AM
   WBC
   6.2
   Hct
   31.1
   Plt
   163
   Cr
   1.0
   TCO2
   49
   Glucose
   110
   Other labs: PT / PTT / INR:15.9/34.3/1.4, Ca++:8.6 mg/dL, Mg++:2.2
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **] yo F with severe COPD, diastolic heart failure,
   kyphoscoliosis who presents after aspiration event.
   .
   # Aspiration: Patient with known chronic aspiration risk, unable to
   take PO meds at [**Hospital1 189**].  She gets confused during attempts to explain
   what has happened during her aspiration events likely due to her
   baseline dementia. Had S&S study in [**3-3**] with recommendation for soft
   dysphagia diet.
   - Strict NPO for now
   - transition meds to IV as able
   - Family discussion for ? NG tube, PEG, or allow chronic aspiration.
   - SW and palleative care consult for ? hospice as this was discussed on
   her last admission but not formally addressed.
   .
   # Hypoxia - Etiology is most likely worsening Right pleural effusion
   vs. aspiration pneumonitis/pneumonia. Underlying COPD, kyphoscoliosis
   contributing. ABG with improved  hypercarbia from baseline - PCO2 68.
   Had lactate of 1.7.
   - NRB/oxygen supplementation to maintain sats 89-92%
   - Recheck ABG in AM and wean O2 as tolerated.
   - hold on further broad spectrum ABX, receiving coverage for
   health-care associated with vanc/zosyn.
   - 1 bolus dose of IV lasix.
   .
   # COPD on home O2 (3-4L at baseline): Currently, Bicarb is at her
   baseline suggesting no CO2 retention.
   - Continue atrovent/albuterol nebs.
   .
   # A fib on coumadin: Last INR was [**2196-5-6**] 2.3 and she is currently rate
   controlled, but unable to take her home BB.
   - recheck INR
   - metoprolol IV PRN for tachycardia.
   .
   # Acute on chronic Diastolic heart failure: ECHO from [**10/2195**] showed EF
   of 70-80% with Mild PAH and significant pulmonic regurg.
   - IV lasix PRN as she will be NPO but getting fluid with IV med/abx
   .
   # FEN: No IVF, replete electrolytes, NPO for now given aspiration
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Code: DNR/DNI per nursing home records
   # Communication: [**Name (NI) 1045**] (son/power of attorney)
   [**Telephone/Fax (5) 6896**]. [**Doctor First Name 153**] (daughter) [**Telephone/Fax (3) 6897**],
   [**Doctor First Name 27**] (daughter): [**Telephone/Fax (1) 6898**].
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2196-5-10**] 04:30 PM
   20 Gauge - [**2196-5-10**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-05-12 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fam mtg decided no PEG, but no decisions made about further
   hospitalizations.
   - Palleative care and SW consults ordered for further discusion.
   - Given non-invasive ventilation overnight per her home schedule.
   - Given 0.5 of IV ativan with good effect.
   - Started back on PO dilt but missed PM dose [**12-28**] agitation
   - Restarted lasix at home dose but IV (30/20)
   - ABGs with low PO2 consistently but only on ventimask 30%. Increased
   FiO2 and ABG pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-5-11**] 09:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-5-12**] 06:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-5-11**] 04:00 PM
   Lorazepam (Ativan) - [**2196-5-11**] 08:22 PM
   Furosemide (Lasix) - [**2196-5-12**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-5-12**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 90 (82 - 114) bpm
   BP: 136/64(80) {102/47(61) - 143/80(92)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  1,190 mL
                                                                    114 mL
   PO:
             TF:
   IVF:
                                                                  1,190 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                    615 mL
   Urine:
                                                                    790 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                   -501 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 622 (125 - 699) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.48/62/67/44/18
   Ve: 2.2 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General: Easily arousible, follows commands, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Lungs: Crackles and Diminished breath sounds on Right side, but
   otherwise clear.
   CV: Irregularly irreg, 2/6 SEM at LUSB
   Abdomen: soft, non-tender, mildly distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: 2+ pulses, no clubbing, cyanosis. No edema at ankles.
   Labs / Radiology
   187 K/uL
   10.1 g/dL
   162 mg/dL
   1.0 mg/dL
   44 mEq/L
   3.8 mEq/L
   27 mg/dL
   95 mEq/L
   144 mEq/L
   30.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2196-5-11**]  12:48 AM
                             [**2196-5-11**]  02:45 AM
                             [**2196-5-11**]  01:56 PM
                             [**2196-5-11**]  07:58 PM
                             [**2196-5-12**]  04:30 AM
                             [**2196-5-12**]  04:58 AM
   WBC
   6.2
   6.9
   Hct
   31.1
   30.7
   Plt
   163
   187
   Cr
   1.0
   1.0
   TCO2
   49
   49
   50
   47
   Glucose
   110
   162
   Other labs: PT / PTT / INR:19.4/35.8/1.8, Lactic Acid:1.0 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   CXR: Unchanged to slightly worse than on admission.
   Assessment and Plan
   [**Age over 90 **] yo F with severe COPD, diastolic heart failure, kyphoscoliosis who
   presents after aspiration event.
   # Aspiration: Patient with known chronic aspiration risk.  Had S&S
   study in [**3-3**] with recommendation for soft dysphagia diet.  Family has
   decided against PEG tube except for one son, but still have not made a
   decision about further hospitalizations vs. hospice.
   - Regular diet with aspiration precautions
   - Continue IV meds -> transition to PO today
   - SW and palliative care consult for ?hospice as this was discussed on
   her last admission but not formally addressed.
   - Confirm no PEG tube today
   - Likely will need to d/c to [**Hospital1 238**] with hope to transition to hospice and
   not re-hospitalize if aspirates again
   # Hypoxia: Etiology is most likely worsening right pleural effusion vs.
   aspiration pneumonitis/pneumonia. Underlying Restrictive lung dz/COPD,
   kyphoscoliosis contributing. ABG with improved hypercarbia from
   baseline on presentation (pCO2 68); requires CPAP at night.
   - O2 supplementation to maintain sats 89-92%
   - Continue coverage for health-care associated PNA with vanc/zosyn
   # Restrictive lung disease vs COPD on home O2 (3-4L at baseline):
   Currently, Bicarb is at her baseline suggesting no CO2 retention.
   Likely with restrictive physiology.
   - Continue atrovent/albuterol nebs prn
   - O2 supplementation as above
   # A fib off coumadin since last admit: INR of 1.4 and she is currently
   rate controlled.
   - Cte CCB PO QID as tolerated with IV bolus PRN if unable to tolerate
   PO
   - Off coumadin now as risks outweigh benefits
   # Acute on chronic Diastolic heart failure: Currently euvolemic. TTE
   from [**10/2195**] showed EF of 70-80% with Mild PAH and significant pulmonic
   regurg.
   - Started home lasix today
   ICU Care
   Nutrition: Aspiration precautions, soft dysphagia diet.
   Glycemic Control:
   Lines:
   PICC Line - [**2196-5-10**] 04:30 PM
   20 Gauge - [**2196-5-10**] 04:30 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: [**Hospital1 238**] vs. Hospice

2196-05-13 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Noted to aspirate with sip of water.
   - Fam mtg: Not ready to make decision re: feeding.
   - Tolerated dysphagia diet in evening with strict aspiration
   precautions
   - Received ativan x 2 for agitation overnight
   - Called out to floor.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-5-12**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-5-13**] 06:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-5-12**] 08:14 PM
   Heparin Sodium (Prophylaxis) - [**2196-5-13**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-5-13**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 100 (81 - 100) bpm
   BP: 103/47(62) {93/45(62) - 145/81(95)} mmHg
   RR: 28 (22 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                    880 mL
                                                                    294 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    640 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,114 mL
                                                                    415 mL
   Urine:
                                                                  2,114 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,234 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///47/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   10.2 g/dL
   118 mg/dL
   1.0 mg/dL
   47 mEq/L
   3.6 mEq/L
   22 mg/dL
   94 mEq/L
   145 mEq/L
   31.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2196-5-11**]  12:48 AM
                             [**2196-5-11**]  02:45 AM
                             [**2196-5-11**]  01:56 PM
                             [**2196-5-11**]  07:58 PM
                             [**2196-5-12**]  04:30 AM
                             [**2196-5-12**]  04:58 AM
                             [**2196-5-13**]  03:40 AM
   WBC
   6.2
   6.9
   6.7
   Hct
   31.1
   30.7
   31.1
   Plt
   163
   187
   192
   Cr
   1.0
   1.0
   1.0
   TCO2
   49
   49
   50
   47
   Glucose
   110
   162
   118
   Other labs: PT / PTT / INR:19.4/35.8/1.8, Lactic Acid:1.0 mmol/L,
   Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F with severe COPD, diastolic heart failure, kyphoscoliosis who
   presents after aspiration event.
   # Aspiration: Patient with known chronic aspiration risk.  Had S&S
   study in [**3-3**] with recommendation for soft dysphagia diet.  Family has
   decided against PEG tube, but still have not made a decision about
   further hospitalizations vs. hospice.
   - Dysphagia diet with aspiration precautions
   - Likely will need to d/c to [**Hospital1 238**] with hope to transition to hospice and
   not re-hospitalize if aspirates again but family not ready to make this
   decision yet
   # Hypoxia: Etiology is most likely worsening right pleural effusion vs.
   aspiration pneumonitis/pneumonia. Underlying Restrictive lung dz/COPD,
   kyphoscoliosis contributing. Requires CPAP at night.
   - O2 supplementation to maintain sats 89-92%
   - Continue coverage for health-care associated PNA with vanc/zosyn
   # Restrictive lung disease vs COPD on home O2 (3-4L at baseline):
   Currently, Bicarb is at her baseline suggesting no CO2 retention.
   Likely with restrictive physiology.
   - Continue atrovent/albuterol nebs prn
   - O2 supplementation as above
   - Cte prednisone taper (10mg today)
   # A fib off coumadin since last admit: INR of 1.4 and she is currently
   rate controlled.
   - Cte CCB PO QID as tolerated with IV bolus PRN if unable to tolerate
   PO
   - Off coumadin now as risks outweigh benefits. Started full dose
   aspirin
   # Acute on chronic Diastolic heart failure: Currently euvolemic. TTE
   from [**10/2195**] showed EF of 70-80% with Mild PAH and significant pulmonic
   regurg.
   - Cte home lasix
   ICU Care
   Nutrition:
   Dysphagia diet
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2196-5-10**] 04:30 PM
   20 Gauge - [**2196-5-10**] 04:30 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: H2 blocker
   VAP:  aspiration precautions
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Call out today